US04518602
Diisopropylamine (2.4 g, 23.8 mmole) was dissolved in anhydrous tetrahydrofuran (50 ml) under argon, and the solution was cooled at -70° C. 1.6M n-butyllithium-hexane solution (14.8 ml, 23.7 mmole) was added dropwise to the solution, followed by stirring at -70° C. for 10 minutes. Tetrahydrofuran (10 ml) solution containing ethyl phenylacetate (3.24 g, 20 mmole) was added, while maintaining the reaction solution at not higher than -60° C. After stirring was continued for 30 minutes under the same conditions, a solution of 4-acetoxypentyl iodide (4.8 g, 20 mmole) in hexamethylphosphortriamide (4 ml) was added dropwise to the reaction solution. Following the dropwise addition, stirring was continued at -70° C. for another 1 hour, and the reaction temperature was allowed to rise to room temperature. 2N hydrochloric acid (30 ml) was added, and the product was extracted with isopropyl ether. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was chromatographed on silica gel, and development was effected with isopropyl ether:hexane (1:1) to yield ethyl 6-acetoxy-2-phenylhexanoate (5 g, 90%).

reactant | Diisopropylamine | 23.8 mmole, 2.4 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl phenylacetate | 20 mmole, 3.24 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
reactant | 4-acetoxypentyl iodide | 20 mmole, 4.8 g | C(C)(=O)OC(CCCI)C | C7H13IO2
reactant | hydrochloric acid | 2N, 30 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 6-acetoxy-2-phenylhexanoate | 5 g, 90% | C(C)(=O)OCCCCC(C(=O)OCC)C1=CC=CC=C1 | C16H22O4
